US06518267B1
d)1-(Benzyloxycarbonyl-L-leucinyl)amino-3-[3-(phenyl)phenylacetyl]amino-2-propanone
Following the procedure of Example 4(a-d), except substituting “Cbz-leucine” for “Boc-leucine” and “3-(phenyl)phenylacetic acid” for “3-(2-pyridyl)phenylacetic acid” gave the title compound: MS (ES+) 530.3 (M+H+), 552.2 (M+Na+).

reactant | Cbz-leucine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | Boc-leucine | C(=O)(OC(C)(C)C)N[C@@H](CC(C)C)C(=O)O | C11H21NO4
reactant | 3-(phenyl)phenylacetic acid | C1(=CC=CC=C1)C=1C=C(C=CC1)CC(=O)O | C14H12O2
reactant | 3-(2-pyridyl)phenylacetic acid | N1=C(C=CC=C1)C=1C=C(C=CC1)CC(=O)O | C13H11NO2
product | 1-(Benzyloxycarbonyl-L-leucinyl)amino-3-[3-(phenyl)phenylacetyl]amino-2-propanone | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)NCC(CNC(CC1=CC(=CC=C1)C1=CC=CC=C1)=O)=O | C31H35N3O5
